US06479490B2
Synthesis of 3-(1-methylindol-3-yl)-4-[3-(3-hydroxy-1-methylpropylamino)phenyl]-1H-pyrrole-2,5-dione
To a mixture of 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (0.2 g, 0.6 mmol) and 4-hydroxy-2-butanone (80 mg, 1.5 eq) in dichloromethane (15 mL) was added NaCNBH3 (56 mg, 1.5 eq) and the reaction mixture was stirred at RT for three days. The product 3-(1-methylindol-3-yl)-4-[3-(3-hydroxy-1-methylpropylamino)phenyl]-1H-pyrrole-2,5-dione separated by preparatory TLC (8.9 mg, 3.6%). LC/mS: M+ 389.

reactant | 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 0.6 mmol, 0.2 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H15N3O2
reactant | 4-hydroxy-2-butanone | 80 mg, 1.5 eq | OCCC(C)=O | C4H8O2
reactant | NaCNBH3 | 56 mg, 1.5 eq | [BH3-]C#N.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-(1-methylindol-3-yl)-4-[3-(3-hydroxy-1-methylpropylamino)phenyl]-1H-pyrrole-2,5-dione | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)NC(CCO)C)=O)=O | C23H23N3O3
